US09126931B2
4-Hydroxy-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Under nitrogen atmosphere, 4-bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U5, 10.0 mg, 25.30 μmol), X-phos (1.07 mg, 2.530 μmol), sodium hydroxide (4.36 mg, 75.90 μmol) and Pd2dba3.CHCl3 (1.31 mg, 1.265 μmol) were dissolved in dioxane (0.50 mL) and water (0.50 mL) and the mixture was stirred at 100° C. for 1 hr. The reaction solution was poured into hydrochloric acid (1 M), extracted with ethyl acetate, washed with saturated brine, dried over sodium sulfate, and then filtered. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) and washed with dichloromethane to obtain the title compound (5.4 mg, 64%).

reactant | 4-bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 25.30 μmol, 10.0 mg | BrC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC)=O)C#N | C20H15BrN2O2
reactant | X-phos | 2.530 μmol, 1.07 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium hydroxide | 75.90 μmol, 4.36 mg | [OH-].[Na+]
reactant | CHCl3 | 1.265 μmol, 1.31 mg | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.50 mL | O | H2O
product | 4-Hydroxy-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 5.4 mg, 64% | OC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC)=O)C#N | C20H16N2O3
